US08044061B2
Preparation of 8-[(3,4-Dimethoxyphenyl)ethynyl]-7-methyl-1-prop-2-ynyl-3,7-dihydro-1H-purine-2,6-dione
To a solution of {8-[(3,4-dimethoxyphenyl)ethynyl]-7-methyl-2,6-dioxo-1-prop-2-ynyl-1,2,6,7-tetrahydro-3H-purin-3-yl}methyl pivalate (471 mg, 0.98 mmol) in a 4:1 mixture of dry tetrahydrofurane and methanol (20 mL) was added lithium hydroxide monohydrate (127 mg, 1.63 mmol). The mixture was stirred at room temperature for 3 h (TLC-control: dichloromethane/methanol, 9.5:0.5, Rf=0.40 for the product). Subsequently the solvent was removed under reduced pressure, the remaining residue was dissolved in water (30 mL) and acidified with diluted hydrochloric acid. The precipitate was filtered under reduced pressure, washed with water and dried at 70° C., yielding 334 mg (93 yield for the deprotection reaction) of the title compound.

reactant | {8-[(3,4-dimethoxyphenyl)ethynyl]-7-methyl-2,6-dioxo-1-prop-2-ynyl-1,2,6,7-tetrahydro-3H-purin-3-yl}methyl pivalate | 0.98 mmol, 471 mg | C(C(C)(C)C)(=O)OCN1C(N(C(C=2N(C(=NC12)C#CC1=CC(=C(C=C1)OC)OC)C)=O)CC#C)=O | C25H26N4O6
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | methanol | 20 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 1.63 mmol, 127 mg | O.[OH-].[Li+]
solvent | dichloromethane methanol | ClCCl.CO
product | 8-[(3,4-Dimethoxyphenyl)ethynyl]-7-methyl-1-prop-2-ynyl-3,7-dihydro-1H-purine-2,6-dione | COC=1C=C(C=CC1OC)C#CC1=NC=2NC(N(C(C2N1C)=O)CC#C)=O | C19H16N4O4
